US06063782
7-(2,4-Difluorobenzyloxy)-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine
The title compound was prepared as a white powder in 26.6% yield in a similar procedure to that described in Example 1 by using 7-chloro-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine and 2,4-difluorobenzyl alcohol.

reactant | 7-chloro-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)CC=C | C11H12ClN3
reactant | 2,4-difluorobenzyl alcohol | FC1=C(CO)C=CC(=C1)F | C7H6F2O
product | 7-(2,4-Difluorobenzyloxy)-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine | 26.6% yield | FC1=C(COC=2N=NC=C3C2N(C(=C3C)C)CC=C)C=CC(=C1)F | C18H17F2N3O
